### PR TITLE
[Merged by Bors] - feat: port NumberTheory.PythagoreanTriples

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/PythagoreanTriples.lean [hunk 1]
```diff
@@ -37,7 +36,7 @@ theorem sq_ne_two_fin_zMod_four (z : ZMod 4) : z * z ≠ 2 := by
 #align sq_ne_two_fin_zmod_four sq_ne_two_fin_zMod_four
 
 theorem Int.sq_ne_two_mod_four (z : ℤ) : z * z % 4 ≠ 2 := by
-  suffices ¬z * z % (4 : ℕ) = 2 % (4 : ℕ) by norm_num at this
```
Comment (eric-wieser) [inline Mathlib/NumberTheory/PythagoreanTriples.lean]: It would be good to understand why norm_num falls here

File: Mathlib/NumberTheory/PythagoreanTriples.lean [hunk 2]
```diff
@@ -67,7 +66,7 @@ namespace PythagoreanTriple
 
 variable {x y z : ℤ} (h : PythagoreanTriple x y z)
 
-include h
+-- include h
```
Comment (eric-wieser) [inline Mathlib/NumberTheory/PythagoreanTriples.lean:69]: These can be deleted, same for `omit`

File: Mathlib/NumberTheory/PythagoreanTriples.lean [hunk 3]
```diff
@@ -465,7 +457,6 @@ theorem isPrimitiveClassified_aux (hc : x.gcd y = 1) (hzpos : 0 < z) {m n : ℤ}
   norm_cast
 #align pythagorean_triple.is_primitive_classified_aux PythagoreanTriple.isPrimitiveClassified_aux
 
-/- ./././Mathport/Syntax/Translate/Tactic/Lean3.lean:132:4: warning: unsupported: rw with cfg: { occs := occurrences.pos[occurrences.pos] «expr[ ,]»([2, 3]) } -/
```
Comment (eric-wieser) [inline Mathlib/NumberTheory/PythagoreanTriples.lean]: This is telling you why the proof broke.

File: Mathlib/NumberTheory/PythagoreanTriples.lean [hunk 4]
```diff
@@ -508,39 +481,35 @@ theorem isPrimitiveClassified_of_coprime_of_odd_of_pos (hc : Int.gcd x y = 1) (h
...
+  have hm2n20 : (m : ℚ) ^ 2 + (n : ℚ) ^ 2 ≠ 0 := by
     norm_cast
     simpa only [Int.coe_nat_pow] using ne_of_gt hm2n2
-  have hv2 : v = 2 * m * n / (m ^ 2 + n ^ 2) :=
-    by
-    apply Eq.symm
-    apply (div_eq_iff hm2n20).mpr
-    rw [ht4.1]
-    field_simp [hQ q]
-    rw [hq2]
```
Comment (eric-wieser) [inline Mathlib/NumberTheory/PythagoreanTriples.lean]: This line is the one that mathport is complaining about, it was originally `rw [hq2] {occs := occurrences.pos [2, 3]},`

File: Mathlib/NumberTheory/PythagoreanTriples.lean [hunk 5]
```diff
@@ -157,48 +150,46 @@ theorem even_odd_of_coprime (hc : Int.gcd x y = 1) :
...
       rw [sub_eq_iff_eq_add] at hx2 hy2
       exact ⟨x0, y0, hx2, hy2⟩
     apply Int.sq_ne_two_mod_four z
-    rw [show z * z = 4 * (x0 * x0 + x0 + y0 * y0 + y0) + 2
-        by
+    rw [show z * z = 4 * (x0 * x0 + x0 + y0 * y0 + y0) + 2 by
         rw [← h.eq]
         ring]
-    norm_num [Int.add_emod]
+    field_simp [Int.add_emod]
```
Comment (eric-wieser) [inline Mathlib/NumberTheory/PythagoreanTriples.lean]: Does `norm_num` not know about `mod`? Can you add a porting note?

File: Mathlib/NumberTheory/PythagoreanTriples.lean (hunk 3 above)
Comment (Parcly-Taxel) [reply Mathlib/NumberTheory/PythagoreanTriples.lean]: The proof already diverges at `field_simp [hQ q]`, before the `rw` that the mathport comment refers. Checking in Lean 3, after `field_simp [hQ q]` the goal looks like
```lean
2 * ↑(q.denom) * ↑n * (1 + q ^ 2) = 2 * q * (↑(q.denom) ^ 2 + ↑n ^ 2)
```

But in the original Lean 4 file (before all our edits), after `field_simp [hQ q]` the goal looks like
```lean
2 * ↑(↑x / (↑z * (↑y / ↑z + 1))).den * ↑(↑x / (↑z * (↑y / ↑z + 1))).num =
  2 * ↑(↑x / (↑z * (↑y / ↑z + 1))).num * (↑(↑x / (↑z * (↑y / ↑z + 1))).den ^ 2 + ↑(↑x / (↑z * (↑y / ↑z + 1))).num ^ 2) /
    (↑(↑x / (↑z * (↑y / ↑z + 1))).den *
      (1 + ↑(↑x / (↑z * (↑y / ↑z + 1))).num ^ 2 / ↑(↑x / (↑z * (↑y / ↑z + 1))).den ^ 2))
```
